US05219856
PART A: Preparation of 5-Methoxycarbonyl-4-hydroxymethyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole
To a solution of 7.03 g (10.0 mmole) of 4,5-bis(methoxycarbonyl)-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]-imidazole in 80 mL anhydrous THF was added 20.0 mL 1.0M DIBAL-H (20.0 mmole, in THF) at -75° C. The mixture was stirred at -75° C. for 2.5 hours and then warmed to room temperature. After stirring overnight at room temperature, TLC (ethyl acetate) showed no starting material. The mixture was poured into 100 mL saturated aqueous NH4Cl solution and stirred for 20 min.; the product was extracted with 4×200 mL ethyl acetate, and the combined organic layer was washed with brine, dried over MgSO4, and filtered. Solvents were then removed under reduced pressure to yield 6.30 g (89.4%) of the title compound as a white foam. 1H NMR (300 MHz, DMSO-d6): δ0.77 (t, J=7.3 Hz, 3H); 1.55 (m, 2H); 2.44 (t, J=7.7 Hz, 3H); 3.66 (s, 3H); 4.59 (d, J=6.2 Hz, 2H); 4.82 (t, J=6.2 Hz, 1H); 5.49 (s, 2H); 6.80-7.80 (m, 23H). MS (NH3 --CI/DDIP): m/z 675 (M+H, 26%); 619 (M+H-N4, 100%); 243 (Tr, 19%). Calculated mass for C42H39N6O3 (M+H): 675.308365; found: 675.308581.

reactant | 4,5-bis(methoxycarbonyl)-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]-imidazole | 10.0 mmole, 7.03 g | COC(=O)C=1N=C(N(C1C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C43H38N6O4
reactant | DIBAL-H | 20.0 mmole, 1.0M, 20.0 mL | CC(C)C[AlH]CC(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 5-Methoxycarbonyl-4-hydroxymethyl-2-propyl-1-[(2'-(N-trityltetrazol-5-yl)biphen-4-yl)methyl]imidazole | 6.30 g, 89.4% | COC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)CO | C42H38N6O3
